US07037916B2
Butyllithium (1.5 mL, 2.4 mmol, 1.6 M) was added at −75° C. to a solution of 5-fluorobenzofuran (0.3 g, 2.2 mmol) in THF (10 mL). Tributyltin chloride (0.98 g, 1 mL) was added at −75° C. and the mixture was allowed to warm to 25° C. over a period of 2 hours. Water (25 mL) was added and the aqueous layer was extracted with diethyl ether (2×25 mL). The combined organic extracts were dried over Na2SO4 and concentrated. Silica gel chromatography (pentane) provided tributyl-(5-fluorobenzofuran-2-yl)-stannane (210 mg).

reactant | Butyllithium | 2.4 mmol, 1.6 M, 1.5 mL | C(CCC)[Li]
reactant | 5-fluorobenzofuran | 2.2 mmol, 0.3 g | FC=1C=CC2=C(C=CO2)C1 | C8H5FO
reactant | Tributyltin chloride | 1 mL, 0.98 g | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | Water | 25 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tributyl-(5-fluorobenzofuran-2-yl)-stannane | 210 mg | C(CCC)[Sn](C=1OC2=C(C1)C=C(C=C2)F)(CCCC)CCCC | InChI=1S/C8H4FO.3C4H9.Sn/c9-7-1-2-8-6(5-7)3-4-10-8;3*1-3-4-2;/h1-3,5H;3*1,3-4H2,2H3;
